US08314088B2
8-benzyl-3-[(1R)-1-cyclopropylethoxy]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
To a solution of (1R)-1-cyclopropylethanol (130 mg) in toluene (3 mL) was added sodium hydride (120 mg), and the mixture was stirred under a nitrogen atmosphere at room temperature for 15 min. A mixture of 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (415 mg), BINAP (41 mg), Pd2(dba)3 (28 mg) and toluene (3 mL) was added, and the mixture was stirred under an argon atmosphere at 100° C. for 3 hr. Water was added to the reaction solution, and the resultant product was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (solvent gradient; 5→50% ethyl acetate/hexane) to give the title compound (329 mg, 67%) as a yellow oil.

reactant | (1R)-1-cyclopropylethanol | 130 mg | C1(CC1)[C@@H](C)O | C5H10O
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 415 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)Cl | C14H14ClN3O
reactant | Water | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 28 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 41 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 8-benzyl-3-[(1R)-1-cyclopropylethoxy]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 329 mg, 67% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)O[C@H](C)C2CC2 | C19H23N3O2
